US07459448B2
10-(4-Amino-piperidine-1-carbonyl)-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one (I-74)
In a manner similar to that described for Method N, 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid (I-43) and piperidin-4-yl-carbamic acid tert-butyl ester were converted to {1-[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carbonyl]-piperidin-4-yl}-carbamic acid tert-butyl ester, which was subsequently deprotected according to Method K. Purification by C-18 RP LC-MS chromatography afforded I-74 (19%): HRMS Calcd. for C26H28N6O4: 489.2250, Found 489.2253.

reactant | 2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carboxylic acid | COC=1C=C(C=CC1OC)NC=1N=CC2=C(C3=C(NC(C2)=O)C=CC(=C3)C(=O)O)N1 | C21H18N4O5
reactant | piperidin-4-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | {1-[2-(3,4-dimethoxy-phenylamino)-6-oxo-6,7-dihydro-5H-benzo[b]pyrimido[4,5-d]azepine-10-carbonyl]-piperidin-4-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CCN(CC1)C(=O)C1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1)=O | C31H36N6O6
product | 10-(4-Amino-piperidine-1-carbonyl)-2-(3,4-dimethoxy-phenylamino)-5H,7H-benzo[b]pyrimido[4,5-d]azepin-6-one | NC1CCN(CC1)C(=O)C1=CC2=C(NC(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)C=C1 | C26H28N6O4
